US06727264B1
3-(2-CHLOROPHENYL)-N-(4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}BUTYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE:
Prepared by Procedure Q2 (THF/DCM, 1:3) and Scheme AT using N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 3-(2-chlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride: ESMS m/e: 537.0 (M+H)+.

reactant | N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C19H31N3O
reactant | 3-(2-chlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride | ClC1=C(C=CC=C1)C1=NOC(=C1C(=O)Cl)C | C11H7Cl2NO2
solvent | THF DCM | C1CCOC1.C(Cl)Cl
product | 3-(2-CHLOROPHENYL)-N-(4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}BUTYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE | ClC1=C(C=CC=C1)C1=NOC(=C1C(=O)NCCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C | C30H37ClN4O3
